US08563617B2
1-Methyl-1H-pyrazole-4-sulfonic acid {2-[8-(3,4-dichloro-benzyl)-7-pyrrolidin-1-yl-5,6,7,8-tetrahydro-naphthalen-2-yloxy]-ethyl}-methyl-amide hydrochloride
N-(2-(8-(3,4-Dichlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethyl)-1-methyl-1H-pyrazole-4-sulfonamide hydrochloride (41 mg, 0.068 mmol, Example 91, iodomethane (11.6 mg, 0.082 mmol), caesium carbonate (49.0 mg, 0.150 mmol) were dissolved in acetonitrile (3 ml) and stirred for 1 h at 100° C. in the microwave. After addition of another iodomethane (11.6 mg, 0.082 mmol) and caesium carbonate (49.0 mg, 0.150 mmol) it was stirred for another 1 h at 100° C. in the microwave. Water and CH2Cl2 were added, the organic phase separated and the aqueous phase extracted with CH2Cl2. The combined organic layers were washed with saturated NaCl solution, dried over Na2SO4, and concentrated to afford a residue that was purified by flash chromatography (silica gel, MeOH/CH2Cl2 3:97→5:95). The white solid product (42 mg, 38%) was transferred to an HCl salt and precipitated from diisopropyl ether. ESI-MS [M+H+]=577 Calculated for C28H34Cl2N4O3S=576

reactant | N-(2-(8-(3,4-Dichlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethyl)-1-methyl-1H-pyrazole-4-sulfonamide hydrochloride | Cl.ClC=1C=C(CC2C(CCC=3C=CC(=CC23)OCCNS(=O)(=O)C=2C=NN(C2)C)N2CCCC2)C=CC1Cl
reactant | iodomethane | 0.082 mmol, 11.6 mg | IC | CH3I
reactant | caesium carbonate | 0.150 mmol, 49.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 0.082 mmol, 11.6 mg | IC | CH3I
reactant | caesium carbonate | 0.150 mmol, 49.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-Methyl-1H-pyrazole-4-sulfonic acid {2-[8-(3,4-dichloro-benzyl)-7-pyrrolidin-1-yl-5,6,7,8-tetrahydro-naphthalen-2-yloxy]-ethyl}-methyl-amide hydrochloride | Cl.ClC=1C=C(CC2C(CCC=3C=CC(=CC23)OCCN(S(=O)(=O)C=2C=NN(C2)C)C)N2CCCC2)C=CC1Cl | InChI=1S/C28H34Cl2N4O3S.ClH/c1-32-19-23(18-31-32)38(35,36)33(2)13-14-37-22-8-6-21-7-10-28(34-11-3-4-12-34)25(24(21)17-22)15-20-5-9-26(29)27(30)16-20;/h5-6,8-9,16-19,25,28H,3-4,7,10-15H2,1-2H3;1H
